US07601868B2
tert-butyl 2-{4-[(2-methyl-1-pyrrolidinyl)methyl]phenyl}ethylcarbamate
To a solution of tert-butyl 2-(4-formylphenyl)ethylcarbamate (3.0 g, 12.0 mmol), 2-methylpyrrolidine (1.44 ml, 14.4 mmol) and acetic acid (1.4 ml, 24.0 mmol) in THF (100 ml) was added sodium triacetoxyborohydride (5.1 g, 24.0 mmol), and the mixture was stirred at room temperature for 16 hrs. 10% Sodium hydrogencarbonate solution (100 ml) was added to the reaction solution, and the mixture was extracted with ethyl acetate (200 ml). The extract was washed with saturated brine, and dried over magnesium sulfate, and solvent was evaporated under reduced pressure. The residue was purified by alumina column chromatography (developing solvent; hexane:ethyl acetate=4:1) to give the title compound (3.10 g).

reactant | tert-butyl 2-(4-formylphenyl)ethylcarbamate | 12.0 mmol, 3.0 g | C(=O)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C14H19NO3
reactant | 2-methylpyrrolidine | 14.4 mmol, 1.44 ml | CC1NCCC1 | C5H11N
reactant | acetic acid | 24.0 mmol, 1.4 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 24.0 mmol, 5.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl 2-{4-[(2-methyl-1-pyrrolidinyl)methyl]phenyl}ethylcarbamate | 3.10 g | CC1N(CCC1)CC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C19H30N2O2
